US07453010B2
A mixture of 0.2 g of trans-N-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)-amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}-benzoyl)-L-phenylalanine (0.248 mmol) and of 0.1 g of 10% palladium-on-charcoal (50% in water) in ethanol (15 ml) is placed under hydrogen atmosphere and stirred for 3 h. The reaction mixture is filtered through celite. The solvents are evaporated under reduced pressure and trans-N-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}benzoyl)-L-phenylalanine is obtained in the form of a white solid (0.049 g, 31%) after purification on C18-grafted silica (eluent: water/acetonitrile, 95/5 to 5/95 gradient in 15 min).

reactant | trans-N-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)-amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}-benzoyl)-L-phenylalanine | 0.248 mmol, 0.2 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C46H51N3O8S
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
product | trans-N-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}benzoyl)-L-phenylalanine | O[C@@H](CN[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1)COC1=CC(=C(C=C1)O)NS(=O)(=O)C | C32H39N3O8S
